US06087357
to a stirred mixture of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-ylmethyl)piperazine (0.2 g) and 1-methyl-4-formyl-1H-pyrazole (0.05 g) in dichloromethane (2 ml) under nitrogen atmosphere was added sodium triacetoxyborohydride (151 mg) at room temperature. After 4 hours, the reaction mixture was evaporated under reduced pressure, and ethyl acetate (20 ml) and aqueous sodium hydrogen carbonate solution (10 ml) were added to the residue. The organic layer was separated and washed wit brine, dried over magnesium sulfate and then concentrated under reduced pressure. The resulting residue was purified by column chromatography on silica gel using a mixture of ethyl acetate and methanol (50:1). The obtained product was dissolved in ethyl acetate and treated with 4N hydrogen chloride in ethyl acetate solution to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-ylmethyl)-4-[(1-methyl-1H-pyrazol-4-yl)methyl]piperazine hydrochloride (154 mg).

reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-ylmethyl)piperazine | 0.2 g | FC(C=1C=C(C(=O)N2[C@@H](CNCC2)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | C22H19F6N3O
reactant | 1-methyl-4-formyl-1H-pyrazole | 0.05 g | CN1N=CC(=C1)C=O | C5H6N2O
reactant | sodium triacetoxyborohydride | 151 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-ylmethyl)-4-[(1-methyl-1H-pyrazol-4-yl)methyl]piperazine hydrochloride | 154 mg | Cl.FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC=2C=NN(C2)C)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C27H25F6N5O.ClH/c1-36-14-17(12-35-36)15-37-6-7-38(22(16-37)10-19-13-34-24-5-3-2-4-23(19)24)25(39)18-8-20(26(28,29)30)11-21(9-18)27(31,32)33;/h2-5,8-9,11-14,22,34H,6-7,10,15-16H2,1H3;1H/t22-;/m1./s1
